US05439919
N-tert-butoxycarbonyl-N-tert-bu-tylglycinal
To N-tert-butoxycarbonyl-N-tert-butylethanolamine (7.24 g), triethylamine (13.5 g) and methylene chloride (150 ml) in 500 ml round bottom flask, a solution dissolved sulfur trioxide-pyridine complex (15.9 g) into 150 ml of DMSO was added at a time under cooling with ice and stirring. After stirring for 10 minutes at room temperature, the reaction mixture was poured into 1 liter of saturated saline solution. After the methylene chloride layer was separated, the aqueous layer was extracted with ether and all of the organic layers were combined, which was dried over anhydrous sodium sulfate and then concentrated. The residue was purified by means of silica gel chromatography (chloroform: ethanol=20:1) to obtain 6.80 g of aimed product as a faintly yellow oily product. Yield: 94.8%

reactant | N-tert-butoxycarbonyl-N-tert-butylethanolamine | 7.24 g | C(C)(C)(C)OC(=O)N(CCO)C(C)(C)C | C11H23NO3
reactant | triethylamine | 13.5 g | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | N-tert-butoxycarbonyl-N-tert-bu-tylglycinal | 6.80 g, Yield: 94.8% | C(C)(C)(C)OC(=O)N(CC=O)C(C)(C)C | C11H21NO3
